US05229381
Step B: Preparation of benzyl 4-hydroxy-2-methylbenzoate
9.5 gm (63 mmol) of material prepared as described in Step A above was dissolved in DMF (100 ml) and benzyl bromide (8.4 ml, 69.3 mmol) was added followed by powdered K2CO3 (13 gm, 94 mmol). This mixture was stirred at 60° C. for 2 hr and then was cooled, diluted with Et2O and poured onto ice chilled aq. HCl. The layers were separated and the aqueous layer was extracted twice more with Et2O. The pooled organic layers were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. This crude product was purified by flash chromatography (silica gel, using 10%-30% EtOAc in hexane as eluant) to give the title compound as an oil which upon trituration with hexane and cooling gave 8.5 gm of a white solid.

reactant | benzyl bromide | 69.3 mmol, 8.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 94 mmol, 13 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | benzyl 4-hydroxy-2-methylbenzoate | OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C15H14O3
